US04057565
To a mixture of 23 ml of a 1.6 M solution of butyllithium in hexane and 10 ml of ethyl ether was added 5.0 g of N,N-dimethyl-o-toluidine with stirring. The mixture gradually became yellow and overnight a pale yellow solid was deposited. It was separated by filtration and dried, to give 2.0 g of 2-dimethylaminobenzyllithium.

reactant | butyllithium | C(CCC)[Li]
reactant | N,N-dimethyl-o-toluidine | 5.0 g | CN(C=1C(=CC=CC1)C)C | C9H13N
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-dimethylaminobenzyllithium | 2.0 g | CN(C1=C(C[Li])C=CC=C1)C | InChI=1S/C9H12N.Li/c1-8-6-4-5-7-9(8)10(2)3;/h4-7H,1H2,2-3H3;
